US09260376B2
Synthesis of methyl 4-(((1R,2R)-1-hydroxy-2,3-dihydro-1H,1′H-[2,2′-biinden]-2-yl)methyl)benzoate (10)
To a solution of 4-(((1R,2R)-1-hydroxy-2,3-dihydro-1H,1′H-[2,2′-biinden]-2-yl)methyl)benzoic acid (100 mg, 0.26 mmol) and K2CO3 (72 mg, 0.52 mmol) in DMF (2.5 mL), was added MeI (148 mg, 1.04 mmol) and then stirred at room temperature for 4 h. The reaction mixture was diluted with 1.5 N HCl (50 mL) and extracted with ethyl acetate (3×25 mL). The separated organic layer was washed with 10% aq. NaHCO3 (25 mL), brine (25 mL), dried over anhydrous Na2SO4 and evaporated under reduced pressure. The residue was purified by CombiFlash using 20% ethyl acetate in chloroform as an eluent to yield 58 mg (56%) of the title compound as an off white solid.

reactant | 4-(((1R,2R)-1-hydroxy-2,3-dihydro-1H,1′H-[2,2′-biinden]-2-yl)methyl)benzoic acid | 0.26 mmol, 100 mg | O[C@@H]1[C@](CC2=CC=CC=C12)(C=1CC2=CC=CC=C2C1)CC1=CC=C(C(=O)O)C=C1 | C26H22O3
reactant | K2CO3 | 0.52 mmol, 72 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | MeI | 1.04 mmol, 148 mg | CI | CH3I
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | HCl | 1.5 N, 50 mL | Cl | ClH
product | methyl 4-(((1R,2R)-1-hydroxy-2,3-dihydro-1H,1′H-[2,2′-biinden]-2-yl)methyl)benzoate | 58 mg, 56% | O[C@@H]1[C@](CC2=CC=CC=C12)(C=1CC2=CC=CC=C2C1)CC1=CC=C(C(=O)OC)C=C1 | C27H24O3
